US08877815B2
To a solution of (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid (400 mg, 1.172 mmol) in DMF (5 mL) were added BOP (580 mg, 1.289 mmol) and DIPEA (0.246 mL, 1.406 mmol) at room temperature. After being stirred for 10 minutes, pyridine-3,4-diamine (130 mg, 1.230 mmol) was added and stirred for 1 hour. The reaction mixture was diluted with EtOAc and washed with H2O and brine. The organic layer was dried over Na2SO4, concentrated under reduced pressure, and purified by silica gel flash column chromatography (10% MeOH in DCM/DCM). The obtained residue was stirred in acetic acid (5 mL) for 4 hours. The reaction mixture was concentrated and purified by silica gel flash column chromatography to give (S)-tert-butyl 2-(biphenyl-4-yl)-1-(3H-imidazo[4,5-c]pyridin-2-yl)ethylcarbamate; 1H NMR (400 MHz, CDCl3) δ 1.41 (s, 9H), 3.33-3.56 (m, 2H), 5.18-5.27 (m, 1H), 5.37-5.48 (m, 1H), 7.22-7.29 (m, 2H), 7.30-7.36 (m, 1H), 7.42 (t, J=7.83 Hz, 2H), 7.48-7.58 (m, 4H), 7.60-7.66 (m, 1H), 8.32 (d, J=5.81 Hz, 1H), 8.94 (s, 1H); MS: m/z (MH+) 415.

reactant | (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid | 1.172 mmol, 400 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H23NO4
reactant | BOP | 1.289 mmol, 580 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 1.406 mmol, 0.246 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridine-3,4-diamine | 1.230 mmol, 130 mg | N1=CC(=C(C=C1)N)N | C5H7N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 2-(biphenyl-4-yl)-1-(3H-imidazo[4,5-c]pyridin-2-yl)ethylcarbamate | C1(=CC=C(C=C1)C[C@@H](C1=NC2=C(C=NC=C2)N1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H26N4O2
